US08790691B2
Succinic anhydride (0.60 g, 5.99 mmol, 1.1 equiv) was added in one portion to a dry THF (11 mL) solution of 1-(dimethylamino)-4-((9Z,12Z)-octadeca-9,12-dienyloxy)butan-2-ol (2.0 g, 5.45 mmol, 1.0 equiv) and the resultant was refluxed for 18 hours under argon. The mixture was concentrated and the residue was partitioned between EtOAc (10 mL) and deionized water (20 mL). The layers were separated and the aqueous layer was extracted with two additional portions of EtOAc (25 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated to provide crude 4-(1-(dimethylamino)-4-((9Z,12Z)-octadeca-9,12-dienyloxy)butan-2-yloxy)-4-oxobutanoic acid, a thick, yellow oil, which was used without further purification.

reactant | Succinic anhydride | 5.99 mmol, 0.60 g, 1.1 equiv | C1(CCC(=O)O1)=O | C4H4O3
reactant | 1-(dimethylamino)-4-((9Z,12Z)-octadeca-9,12-dienyloxy)butan-2-ol | 5.45 mmol, 2.0 g, 1.0 equiv | CN(CC(CCOCCCCCCCC\C=C/C\C=C/CCCCC)O)C | C24H47NO2
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | 4-(1-(dimethylamino)-4-((9Z,12Z)-octadeca-9,12-dienyloxy)butan-2-yloxy)-4-oxobutanoic acid | CN(CC(CCOCCCCCCCC\C=C/C\C=C/CCCCC)OC(CCC(=O)O)=O)C | C28H51NO5
